US09388161B2
(S)-Methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-5-(1-ethylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from (S)-methyl 5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate and acetaldehyde according to the procedure outlined above for Example 40. 1H NMR (400 MHz, CD3OD) δ ppm 0.96 (t, J=7.20 Hz, 3H), 1.05-1.20 (m, 7H), 1.42-1.55 (m, 1H), 2.15-2.25 (m, 1H), 2.40-2.52 (m, 3H), 2.81-2.95 (m, 1H), 3.01-3.15 (m, 2H), 3.41-3.52 (m, 2H), 3.68-3.71 (m, 1H), 3.78 (s, 3H), 4.21-4.28 (m, 1H), 4.51-4.61 (m, 1H), 7.20-7.32 (m, 2H), 7.76 (s, 1H), 7.99 (s, 1H). MS (ESI, pos. ion) m/z 411 [M+H]+.

reactant | (S)-methyl 5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | N1CC(C1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(=O)OC)C | C21H26N4O3
reactant | acetaldehyde | C(C)=O | C2H4O
product | (S)-Methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-5-(1-ethylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CN(C1)CC | C23H30N4O3
